US07842688B2
f) 4,4-Dimethyl-8-(tetrahydropyran-2-yloxymethyl)-3,4-dihydro-1H-quinolin-2-one
Analogously to Example 129g, 2.5 g of 8-hydroxymethyl-4,4-dimethyl-3,4-dihydro-1H-quinolin-2-one and 2.28 ml of 3,4-dihydro-2H-pyran are reacted. The title compound is obtained as a light brown oil. Rf=0.25 (1:1 EtOAc-heptane); Rt=4.28.

reactant | 8-hydroxymethyl-4,4-dimethyl-3,4-dihydro-1H-quinolin-2-one | 2.5 g | OCC=1C=CC=C2C(CC(NC12)=O)(C)C | C12H15NO2
reactant | 3,4-dihydro-2H-pyran | 2.28 ml | O1CCCC=C1 | C5H8O
product | 4,4-Dimethyl-8-(tetrahydropyran-2-yloxymethyl)-3,4-dihydro-1H-quinolin-2-one | CC1(CC(NC2=C(C=CC=C12)COC1OCCCC1)=O)C | C17H23NO3
